// Generated for: spectre
// Generated on: Nov 17 12:35:39 2025
// Design library name: DAY6
// Design cell name: ex2
// Design view name: schematic
simulator lang=spectre
global 0
parameters VIN2=0
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/config.scs" section=default
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/param.scs" section=3s
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/bip.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/cap.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/dio.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/mos.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/photo.scs" section=tm
include "/opt/pdk/xfab/XKIT/xh018/cadence/v10_0/spectre/v10_0_2/lpmos/res.scs" section=tm

// Library name: DAY6
// Cell name: ex2
// View name: schematic
V1 (net3 0) vsource dc=1.8 type=dc
V3 (net2 VOUT2) vsource dc=900m type=dc
V2 (net1 VIN2) vsource dc=394.2m type=dc
V4 (VIN2 0) vsource dc=VIN2 type=dc
I3 (net3 net6) isource dc=70u type=dc
I1 (0 net2) isource dc=100u type=dc
R2 (net6 VIN) resistor r=100k
R0 (net3 VOUT) resistor r=9k
R1 (VOUT2 0) resistor r=9k
M2 (net6 net6 0 0) nel w=8u l=180.0n as=3e-12 ad=2.16e-12 ps=1.275e-05 \
        pd=8.54e-06 nrs=0.03375 nrd=0.03375 m=(1)*(4) par1=(1)*(4) \
        xf_subext=0
M0 (VOUT VIN 0 0) nel w=8u l=180.0n as=3e-12 ad=2.16e-12 ps=1.275e-05 \
        pd=8.54e-06 nrs=0.03375 nrd=0.03375 m=(1)*(4) par1=(1)*(4) \
        xf_subext=0
M1 (net2 net1 0 0) nel w=8u l=180.0n as=3e-12 ad=2.16e-12 ps=1.275e-05 \
        pd=8.54e-06 nrs=0.03375 nrd=0.03375 m=(1)*(4) par1=(1)*(4) \
        xf_subext=0
V5 (net5 0) vsource dc=0 type=sine ampl=10m freq=1K
C0 (VIN net5) capacitor c=1u
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=VIN2 start=-0.9 stop=0.9 step=1m oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
tran tran stop=6m errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
